US07723378B2
A solution of 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-5-(5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-[1,2,4]oxadiazole (500 mg, 1.18 mmol) in 2 N methanolic ammonia (7 mL) is heated in a sealed vial to 100° C. for 5 min in a microwave oven (300 W, active cooling during irradiation). The solvent is evaporated and the residue is purified by prep. HPLC (GROM-SIL ODS-4 HE, 75×30 mm ID, 10 μm, 20-95% acetonitrile in water containing 0.5% formic acid) to afford 1-amino-3-{4-[5-(5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propan-2-ol (220 mg) as a colourless resin; LC-MS: tR=0.92 min, [M+1]+=428.38.

reactant | 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-5-(5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-[1,2,4]oxadiazole | 1.18 mmol, 500 mg | CC=1C=C(C=C(C1OCC1OC1)C)C1=NOC(=N1)C=1SC=C2C1CCC(C2)(C)C | C23H26N2O3S
reactant | ammonia | 2 N, 7 mL | N | H3N
product | 1-amino-3-{4-[5-(5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propan-2-ol | 220 mg | NCC(COC1=C(C=C(C=C1C)C1=NOC(=N1)C=1SC=C2C1CCC(C2)(C)C)C)O | C23H29N3O3S
